US08937087B2
To a mixture of 2-nitro-4-(trifluoromethoxy)aniline (1.17 g) and EtOH (20 mL) were added ammonium chloride (565 mg) and water (5 mL), followed by further adding zinc powder (1.73 g) at 60° C., and heating and stirring at 60° C. for 1 hour. The reaction mixture was cooled to room temperature, filtered over Celite, and washed with EtOAc. This filtrate was washed with a saturated aqueous NaHCO3 solution and brine in this order, dried over MgSO4, and then concentrated under reduced pressure to obtain 4-(trifluoromethoxy)benzene-1,2-diamine.

reactant | 2-nitro-4-(trifluoromethoxy)aniline | 1.17 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)OC(F)(F)F | C7H5F3N2O3
reactant | EtOH | 20 mL | CCO | C2H6O
reactant | ammonium chloride | 565 mg | [Cl-].[NH4+]
catalyst | zinc | 1.73 g | [Zn] | Zn
solvent | water | 5 mL | O | H2O
product | 4-(trifluoromethoxy)benzene-1,2-diamine | FC(OC=1C=C(C(=CC1)N)N)(F)F | C7H7F3N2O
